US07371772B2
To a solution of 4-amino-2-methylthiophenol (500 mg) and triethylamine (3.0 ml) in tetrahydrofuran (15 ml) was added dropwise a solution of 5-chloromethyl-4-methyl-1-propylimidazole hydrochloride (908 mg) in methanol (5 ml) at 0° C. under argon atmosphere, after which the mixture was returned to room temperature and stirred for 3 hours. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=1:1→ethyl acetate) to give 3-methyl-4-[((4-methyl-1-propylimidazol-5-yl)methyl)sulfanyl]aniline (301 mg) as a brown powder.

reactant | 4-amino-2-methylthiophenol | 500 mg | NC1=CC(=C(C=C1)S)C | C7H9NS
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chloromethyl-4-methyl-1-propylimidazole hydrochloride | 908 mg | Cl.ClCC1=C(N=CN1CCC)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 3-methyl-4-[((4-methyl-1-propylimidazol-5-yl)methyl)sulfanyl]aniline | 301 mg | CC=1C=C(N)C=CC1SCC1=C(N=CN1CCC)C | C15H21N3S
